US07365225B2
[4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[4-(trifluoromethyl)benzoyl]amino}methyl)phenoxy]acetic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, 4-(trifluoromethyl)benzoyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 730

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | [4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[4-(trifluoromethyl)benzoyl]amino}methyl)phenoxy]acetic acid | C(CCCC)C1=CC=C(CNC(=O)C2=CC=C(C=C2)C=2SC=C(N2)CN(C(C2=CC=C(C=C2)C(F)(F)F)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C40H38F3N3O5S
